US06506901B2
Step C: (2S)-2-[({4-[(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)-amino]-phenyl}-ethyl)amino]methyl}piperidin-1-yl)sulfonyl]anilino}carbonyl)-amino]-3-phenylpropanoic Acid
A solution of N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methane-sulfonamide (0.320 g, 1.3 mmol), (2S)-2-{3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-ureido}-3-phenyl-propionic acid benzyl ester (1.3 mmol) and glacial acetic acid (0.074 g, 1.3 mmol) in 5 mL methanol was stirred for 1 hour over 4A molecular sieves. In one portion sodium cyanoborohydride (0.086 g, 1.3 mmol) was added and the mixture stirred overnight at ambient temperature. The sieves were filtered and the filtrate was preabsorbed on silica gel. The solids were purified by flash chromatography (CH2Cl2—CH3OH, 19:1). to give 0.12 g of the product.

reactant | N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methane-sulfonamide | 1.3 mmol, 0.320 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | (2S)-2-{3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-ureido}-3-phenyl-propionic acid benzyl ester | 1.3 mmol | C(C1=CC=CC=C1)OC([C@H](CC1=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C=O)=O | C29H31N3O6S
reactant | acetic acid | 1.3 mmol, 0.074 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.3 mmol, 0.086 g | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (2S)-2-[({4-[(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)-amino]-phenyl}-ethyl)amino]methyl}piperidin-1-yl)sulfonyl]anilino}carbonyl)-amino]-3-phenylpropanoic Acid | 0.12 g | O[C@@H](CNCC1CCN(CC1)S(=O)(=O)C1=CC=C(NC(=O)N[C@H](C(=O)O)CC2=CC=CC=C2)C=C1)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C31H39N5O9S2
